US07618978B2
tert-Butyl 5-Bromo-3(R)-formyl-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate
Dissolve the tert-butyl 5-bromo-3(R)-(hydroxymethyl)-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate (710 mg, 0.0019 mol) in dimethylsulfoxide (2.00 mL) and cool to 0° C. Add triethylamine (1.06 mL, 0.00763 mol) and sulfur trioxide-pyridine complex (0.607 g, 0.00381 mol). Warm to room temperature over one hour. Dilute diethyl ether (100 mL) and extract (3×25 mL) with 5% aqueous citric acid, (1×25 mL) saturated aqueous sodium chloride, and dry over magnesium sulfate. Concentrate the filtrate to give the desired product (687 mg, 94%) as an off-white semi-solid.

reactant | tert-butyl 5-bromo-3(R)-(hydroxymethyl)-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.0019 mol, 710 mg | BrC1=C2C[C@@H](N(CC2=C(C=C1)OC)C(=O)OC(C)(C)C)CO | C16H22BrNO4
reactant | triethylamine | 0.00763 mol, 1.06 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 2.00 mL | CS(=O)C | C2H6OS
product | tert-Butyl 5-Bromo-3(R)-formyl-8-methoxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | 687 mg, 94% | BrC1=C2C[C@@H](N(CC2=C(C=C1)OC)C(=O)OC(C)(C)C)C=O | C16H20BrNO4
